US07696240B2
Using general procedure A (Exp. 1.1), 7-chloro-3,4-dihydro-2H-naphthalen-1-one (Lit. 13) was reacted with MeMgI to give 6-chloro-4-methyl-1,2-dihydro-naphthalene as a yellow oil. MS: 178.0 ([M]+).

reactant | 7-chloro-3,4-dihydro-2H-naphthalen-1-one | ClC1=CC=C2CCCC(C2=C1)=O | C10H9ClO
reactant | MeMgI | C[Mg]I
product | 6-chloro-4-methyl-1,2-dihydro-naphthalene | ClC=1C=C2C(=CCCC2=CC1)C | C11H11Cl
